US07563799B2
To a solution of [2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-chloro-5-methylsulfanyl-phenyl)-methanone (3.0 g, 5.76 mmol) in 10 mL of dioxane/EtOH (10:1) was added hydrazine (0.19 mL, 5.76 mmol) The resulting mixture was heated to reflux for 24 hours, then cooled to room temperature. The mixture was partitioned between water and ethyl acetate, and the organic layer was separated, washed twice with 1N aqueous HCl and once with wtisaturated brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was chromatographed through silica gel (EtOAc/hexanes 5-20%) to give 180 mg of 3-(2-chloro-5-methylsulfanyl-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidine, MS (M+H)=405.

reactant | [2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-chloro-5-methylsulfanyl-phenyl)-methanone | 5.76 mmol, 3.0 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(=O)C2=C(C=CC(=C2)SC)Cl)C=CC(=C1)F | C24H13ClF4N2O3S
reactant | hydrazine | 5.76 mmol, 0.19 mL | NN | H4N2
solvent | dioxane EtOH | 10 mL | O1CCOCC1.CCO
product | 3-(2-chloro-5-methylsulfanyl-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidine | 180 mg | ClC1=C(C=C(C=C1)SC)C1=NNC2=NC(=NC=C21)OC2=C(C=C(C=C2)F)F | C18H11ClF2N4OS
